2126-07-27 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient had pulled EJ out earlier in night and later a PICC  line
   placed and patient began CHOP regimen last night.  Potassium was
   repleted for hypokalemia and lysis labs are being checked q6hrs
   currently.  He continued on IVF NS at 250cc/hr for hypercalcemia and
   tumor lysis precautions
   Pt was combative toward staff around 10pm and also tried pulling out
   pleurovac tubing and PICC/foley despite soft wrist restraints so he got
   1mg IVP Ativan  which helped to relax him. K of 3.6 repleted currently
   4.1
 PICC LINE - START [**2126-7-26**] 07:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-7-26**] 07:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-7-27**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-27**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.9
C (96.6
   HR: 99 (97 - 107) bpm
   BP: 98/60(68) {80/44(53) - 109/61(69)} mmHg
   RR: 19 (12 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,610 mL
                                                                     62 mL
   PO:
             TF:
   IVF:
                                                                  2,550 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    290 mL
   Urine:
                                                                    885 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
                                                                    180 mL
   Balance:
                                                                  1,545 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   General Appearance:  NAD, anxious
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: S1/ S2 appreciated, pericardial friction rub
   auscultated and a  pericardial window drain noted anteriorly exiting
   with serosanguinous fluid noted.
   Lungs : , CTA bilaterally posteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, no rashes, pale complexion
   Neurologic: Responds to: Verbal stimuli, Oriented (to): x1, Movement:
   Non -purposeful, Tone: Normal
   Labs / Radiology
   180 K/uL
   10.4 g/dL
   100 mg/dL
   1.7 mg/dL
   31 mEq/L
   4.4 mEq/L
   60 mg/dL
   107 mEq/L
   148 mEq/L
   31.0 %
   16.4 K/uL
        [image002.jpg]
                             [**2126-7-25**]  06:45 PM
                             [**2126-7-25**]  08:19 PM
                             [**2126-7-25**]  10:08 PM
                             [**2126-7-25**]  10:27 PM
                             [**2126-7-25**]  11:26 PM
                             [**2126-7-25**]  11:27 PM
                             [**2126-7-26**]  05:31 AM
                             [**2126-7-26**]  02:54 PM
                             [**2126-7-26**]  05:10 PM
                             [**2126-7-26**]  11:43 PM
   WBC
   13.7
   11.6
   15.7
   16.4
   Hct
   31.4
   30.6
   26.8
   32.1
   31.0
   Plt
   195
   155
   198
   180
   Cr
   1.6
   1.7
   1.2
   1.6
   1.7
   TCO2
   31
   26
   34
   32
   Glucose
   84
   97
   134
   86
   113
   100
   Other labs: PT / PTT / INR:14.2/21.7/1.2, ALT / AST:[**9-9**], Alk Phos / T
   Bili:59/1.0, Fibrinogen:519 mg/dL, Albumin:1.9 g/dL, LDH:190 IU/L,
   Ca++:14.0 mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan:
   Assesment: 60 y/o male p/w newly dx NHL with involvement of lung,
   pericardium, heart, adrenals, and kidneys set to undergo chemotherapy,
   course also c/b significant hypercalcemia
   .
   Plan:
   # High grade NHL
   - IR guided PICC line placement
   - chemo per BMT team
   - DIC/TLS labs q6h
   - allopurinol 150mg daily
   - IVF with NS for now given calcium level
   - prednisone 100mg daily
   # Pericardial effusion
   - s/p pericardial window
   - monitor output, has a chest tube draining to water seal now
   - f/u cardiac [**Doctor First Name 458**] recs
   # Hypercalcemia
   - aggressive IVF hydration with NS at 250cc/hr
   - hold lasix for now until volume repleted
   - received pamidronate [**7-25**]
   - continue decadron 20mg IV bid for next 24 hrs then readdress with BMT
   .
   # Tachycardia
   - lopressor 12.5mg [**Hospital1 **], dose lowered 2 days prior [**1-19**] low MAP
   .
   # FEN: Reg diet
   .
   # Access: EJ and PIVx1, to go for PICC line in IR today
   .
   # PPx: pneumoboots and sq heparin until plt drop, H2 blocker given on
   steroids
   .
   # Code: FULL
   .
   # Dispo:  ICU for now
   .
   # Comm:  Wife, [**Name (NI) 263**] [**Name (NI) **] [**Telephone/Fax (1) 4075**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2126-7-26**] 01:42 PM
   16 Gauge - [**2126-7-26**] 01:43 PM
   PICC Line - [**2126-7-26**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-07-27 11:22:00 Physician Attending Progress Note
Chief Complaint: Hypercalcemia, pericardial effusion
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 M recently diagnosed non-Hodgkin's lymphoma complicated by
   pericardial effusion and hypercalcemia
   24 Hour Events:
 PICC LINE - START [**2126-7-26**] 07:00 PM
   -Began CHOP this morning
   -Improving hypercalcemia
   -Agitated requiring soft restraints, ativan
   -Pulled EJ line
   -Low UOP this a.m. requiring 500 cc NS bolus
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-7-26**] 07:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-7-27**] 04:03 AM
   Other medications:
   Colace
   Allopurinol
   Lopressor
   Ranitidine
   Sevelamer
   RISS
   Prednisone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Genitourinary: Foley
   Flowsheet Data as of  [**2126-7-27**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96.1
   HR: 97 (96 - 107) bpm
   BP: 94/62(70) {80/44(53) - 109/62(70)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,610 mL
                                                                  1,500 mL
   PO:
             TF:
   IVF:
                                                                  2,550 mL
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    460 mL
   Urine:
                                                                    885 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
                                                                    180 mL
   Balance:
                                                                  1,545 mL
                                                                  1,040 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3 L
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): x2, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   198 K/uL
   102 mg/dL
   1.7 mg/dL
   31 mEq/L
   3.8 mEq/L
   66 mg/dL
   107 mEq/L
   147 mEq/L
   31.5 %
   21.3 K/uL
        [image002.jpg]
                             [**2126-7-25**]  08:19 PM
                             [**2126-7-25**]  10:08 PM
                             [**2126-7-25**]  10:27 PM
                             [**2126-7-25**]  11:26 PM
                             [**2126-7-25**]  11:27 PM
                             [**2126-7-26**]  05:31 AM
                             [**2126-7-26**]  02:54 PM
                             [**2126-7-26**]  05:10 PM
                             [**2126-7-26**]  11:43 PM
                             [**2126-7-27**]  05:23 AM
   WBC
   13.7
   11.6
   15.7
   16.4
   21.3
   Hct
   31.4
   30.6
   26.8
   32.1
   31.0
   31.5
   Plt
   195
   155
   198
   180
   198
   Cr
   1.6
   1.7
   1.2
   1.6
   1.7
   1.7
   TCO2
   26
   34
   32
   Glucose
   97
   134
   86
   113
   100
   102
   Other labs: PT / PTT / INR:13.9/21.7/1.2, ALT / AST:[**7-10**], Alk Phos / T
   Bili:53/0.7, Fibrinogen:490 mg/dL, Albumin:2.5 g/dL, LDH:204 IU/L,
   Ca++:13.5 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: Uric acid 8.9 (from 6.6)
   Imaging: CXR - Right lung field cut off. Cardiomegaly. Retrocardiac
   opacity.  Left pleural effusion.  PICC line at cavoatrial junction R.
   Microbiology: Urine - Negative.
   Pericardial fluid - Pending.
   Assessment and Plan: 60 M non-Hodgkin
s lymphoma complicated by
   hypercalcemia, pericardial effusion s/p window.  Has received his first
   dose of CHOP.  Remains encephalopathic and hypovolemic by exam.
   1)       Non-Hodgkin
 Status post CHOP.  Continue to follow tumor
   lysis labs.  Prednisone.
   2)      Hypovolemia
 Continue NS at 250 cc / hr plus boluses for UOP <
   40 cc / hr.
   3)      Hypercalcemia
 Likely secondary to metastatic disease and
   immobilization.  Aggressive IV hydration as above.  Holding lasix given
   low UOP, elevated creatinine.
   4)      Encephalopathy
 Likely secondary to hypernatremia,
   hypercalcemia.  Will try haldol rather than ativan for agitation as
   benzodiazepenes may contribute to ICU delirium.  Check ammonia.  No
   obvious signs of infection though WBC up to 21K after prednisone.
   Start thiamine, folate.  Check vitamin B12, folate levels.
   5)      ARF
 Stable and likely pre-renal in nature.  Hydration as
   above.
   6)      Pericardial effusion
 Drain remains in place.  Follow output.
   Cardiac surgery following.
   7)      Atrial tachycardia
 Lopressor with hold parameters given
   borderline BP.
   8)      Anemia
 Hct stable.  Vit B12, folate levels as above.
   9)      FEN
 NPO.  Maintenance fluids.  Follow lytes.
   I as physically present with the ICU fellow for presentation and
   discussion of the patient
s course.  I agree in full with the history,
   exam, ROS and plan of the above note of Dr. [**Last Name (STitle) **].  I would add
   Patient with initial Rx for NHL with CHOP and has persistent altered
   mental status with question raised as to possible CNS involvement.  He
   is now s/p pericardial window for drainage of effusion.
   Exam
patient with response to voice but only intermittently following
   commands.  He does move all extremities.  He has persistent rub
   appreciated anteriorly.
   Will continue to attempt to optimize lytes and look so see improvement
   in mental status.  If able
will pursue LP for evaluation of CNS
   involvment with NHL.  IVF to be changed to
 NS given hypernatremia.
   ICU Care
   Nutrition: NPO.
   Glycemic Control:  Regular insulin sliding scale
   Lines: Peripheral IV.  Right PICC.
   20 Gauge - [**2126-7-26**] 01:42 PM
   PICC Line - [**2126-7-26**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin.  Boots.
   Stress ulcer: Ranitidine
   VAP:  N/A.
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Wife, oncology team, cardiothoracic surgery
   Code status: Full code
   Disposition : Remains in ICU.
   Total time spent: 35

2126-07-28 12:08:00 Physician Attending Progress Note
Chief Complaint: Pericardial effusion, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 M recently diagnosed non-Hodgkin's lymphoma complicated by
   pericardial effusion requiring window drainage, altered mental status.
   Has hypercalcemia, hypernatremia, hypovolemia which are likely
   contributors to his encephalopathy.
   24 Hour Events:
   -Hypernatremia improved with 1/2 NS
   -Hypercalcemia continues to improve
   -Encephalopathy work-up unrevealing
   -Agitated overnight requiring haldol
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-7-26**] 07:45 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-7-27**] 06:45 PM
   Heparin Sodium (Prophylaxis) - [**2126-7-27**] 10:00 PM
   Haloperidol (Haldol) - [**2126-7-28**] 05:30 AM
   Heparin Sodium - [**2126-7-28**] 09:33 AM
   Other medications:
   Colace - not getting
   Allopurinol - not getting
   Lopressor - not getting
   Renagel - not getting
   RISS
   Folate
   Thiamine
   Solumedrol 80 mg IV daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-28**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.5
   HR: 87 (86 - 100) bpm
   BP: 108/63(73) {95/45(58) - 111/71(79)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  5,493 mL
                                                                  3,376 mL
   PO:
             TF:
   IVF:
                                                                  5,493 mL
                                                                  3,376 mL
   Blood products:
   Total out:
                                                                  1,757 mL
                                                                  1,230 mL
   Urine:
                                                                  1,617 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
                                                                    140 mL
   Balance:
                                                                  3,736 mL
                                                                  2,146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3 L
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Head, Ears, Nose, Throat: Dry mucous membranes
   Cardiovascular: (S1: Normal), (S2: Normal), Rub, Pericardial drain in
   place
   Lungs: Diminished at left base, otherwise clear.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Extremities: Right: Absent, Left: Absent
   Skin:  No rashes
   Neurologic: Responds to: Not assessed, Oriented (to): person, hospital,
   time of day, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   127 K/uL
   124 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   71 mg/dL
   110 mEq/L
   145 mEq/L
   28.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2126-7-25**]  11:27 PM
                             [**2126-7-26**]  05:31 AM
                             [**2126-7-26**]  02:54 PM
                             [**2126-7-26**]  05:10 PM
                             [**2126-7-26**]  11:43 PM
                             [**2126-7-27**]  05:23 AM
                             [**2126-7-27**]  11:30 AM
                             [**2126-7-27**]  06:37 PM
                             [**2126-7-28**]  12:01 AM
                             [**2126-7-28**]  05:13 AM
   WBC
   13.7
   11.6
   15.7
   16.4
   21.3
   18.1
   16.2
   12.3
   10.3
   Hct
   30.6
   26.8
   32.1
   31.0
   31.5
   30.1
   29.2
   28.4
   28.4
   Plt
   195
   155
   198
   180
   198
   170
   160
   143
   127
   Cr
   1.7
   1.2
   1.6
   1.7
   1.7
   1.6
   1.5
   1.4
   1.4
   TCO2
   32
   Glucose
   134
   86
   113
   100
   102
   106
   108
   114
   124
   Other labs: PT / PTT / INR:14.5/26.6/1.3, ALT / AST:[**7-10**], Alk Phos / T
   Bili:53/0.7, Differential-Neuts:95.6 %, Lymph:1.9 %, Mono:2.0 %,
   Eos:0.3 %, Fibrinogen:305 mg/dL, Albumin:2.5 g/dL, LDH:325 IU/L,
   Ca++:10.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: Uric acid 9.2
   NH3 13
   Vitamin B12 normal
   Folate normal
   Imaging: CXR - Right PICC in good position.  Retrocardiac opacity.
   Cardiomegaly.
   Microbiology: Pericardial fluid - Negative
   Urine culture - Negative
   Assessment and Plan: 60 M recently diagnosed non-Hodgkin
s lymphoma c/b
   pericardial effusion status post pericardial window.  He has
   encephalopathy that is likely toxic-metabolic in nature.  Though he is
   still quite encephalopathic, he is more alert and less combative today.
   1)       NHL
 Continue to follow DIC, tumor lysis labs.  Continue
   allopurinol.  Received CHOP on Friday [**7-26**].  Continue steroids.
   2)       Hypercalcemia
 Improving.  Continue hydration.
   3)       Volume status
 Improving though still appears hypovolemic on
   exam.  UOP excellent.  Sodium within normal limits.
   4)       Encephalopathy
 Some improvement in level of alertness
   today.  Check TSH.  Will need an LP at some point to exclude malignant
   involvement of the CSF.
   5)       Pericardial effusion
 Will check with cardiac surgery
   regarding criteria for removing drain.
   6)       Atrial tachycardia
 Continue lopressor if he
s able to take
   po.
   7)       ARF
 Improved today.  Continue hydration.  Follow creatinine.
   8)       Thrombocytopenia
 Likely related to chemotherapy.  Trend.
   ICU Care
   Nutrition: Assess ability to swallow safely today.  If able, will use
   soft solid diet.
   Glycemic Control:  Regular insulin sliding scale
   Lines: Peripheral IV, R PICC
   20 Gauge - [**2126-7-26**] 01:42 PM
   PICC Line - [**2126-7-26**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin, boots.
   Stress ulcer: Famotidine
   VAP:  N/A
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Wife, oncology team, cardiac surgery
   Code status: Full code
   Disposition :Remains in ICU
   Total time spent:

2126-07-29 06:50:00 Physician Resident Progress Note
24 Hour Events:
   Patient remains encephalopathic despite correction of Ca and other
   lytes.  Tumor lysis markers largely negative, except for increasing
   Phos.  He required soft restraints and a mg of Ativan to calm him down.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-7-26**] 07:45 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2126-7-28**] 09:33 AM
   Famotidine (Pepcid) - [**2126-7-28**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2126-7-28**] 10:04 PM
   Lorazepam (Ativan) - [**2126-7-29**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-7-29**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 68 (68 - 92) bpm
   BP: 99/57(67) {91/53(62) - 111/71(79)} mmHg
   RR: 7 (7 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  7,027 mL
                                                                  1,602 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  6,967 mL
                                                                  1,602 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                  1,280 mL
   Urine:
                                                                  2,210 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   300 mL
   Balance:
                                                                  4,817 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Gen: Patient remains oriented only to self, NAD, mildly somnolent.
   Labs / Radiology
   122 K/uL
   9.2 g/dL
   134 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   65 mg/dL
   110 mEq/L
   140 mEq/L
   26.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2126-7-26**]  05:10 PM
                             [**2126-7-26**]  11:43 PM
                             [**2126-7-27**]  05:23 AM
                             [**2126-7-27**]  11:30 AM
                             [**2126-7-27**]  06:37 PM
                             [**2126-7-28**]  12:01 AM
                             [**2126-7-28**]  05:13 AM
                             [**2126-7-28**]  12:30 PM
                             [**2126-7-28**]  10:35 PM
                             [**2126-7-29**]  03:28 AM
   WBC
   15.7
   16.4
   21.3
   18.1
   16.2
   12.3
   10.3
   9.7
   Hct
   32.1
   31.0
   31.5
   30.1
   29.2
   28.4
   28.4
   27.5
   26.3
   Plt
   198
   180
   198
   170
   160
   143
   127
   115
   123
   122
   Cr
   1.6
   1.7
   1.7
   1.6
   1.5
   1.4
   1.4
   1.3
   1.3
   Glucose
   113
   100
   102
   106
   108
   114
   124
   108
   134
   Other labs: PT / PTT / INR:15.3/33.4/1.3, ALT / AST:[**8-8**], Alk Phos / T
   Bili:46/0.8, Differential-Neuts:95.6 %, Lymph:1.9 %, Mono:2.0 %,
   Eos:0.3 %, Fibrinogen:236 mg/dL, Albumin:2.2 g/dL, LDH:200 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   Assesment: 60 y/o male p/w newly dx NHL with involvement of lung,
   pericardium, heart, adrenals, and kidneys set to undergo chemotherapy,
   course also c/b significant hypercalcemia
   .
   Plan:
   # Encephalopathy: Continues despite correction of Ca.  Head CT negative
   for bleed.  Other etiologies include CNS lymphoma or infectious cause.
   - continue soft restraints and ativan PRN for agitation
   -LP today for cell count and workup of infectious/malignant cause of
   encephalopathy.  Will premedicate with Versed.
   # High grade NHL
   - Patient completed first Tx of CHOP therapy on [**2126-7-26**]
   - chemo per BMT team
   - DIC/TLS labs q6h
   - allopurinol increased to 300mg daily
   - D/C IVF now
   - prednisone 100mg daily
   # RUE swelling: Right greater than left
   - RUE LENI to r/o DVT
   # Pericardial effusion
   - s/p pericardial window
   - monitor output, has a chest tube draining to water seal now
   - f/u cardiac [**Doctor First Name 458**] recs
   # Hypercalcemia: Corrected today
   - hold lasix for now
   - received pamidronate [**7-25**]
   - continue to monitor
   .
   # Tachycardia
   - lopressor 12.5mg [**Hospital1 **], dose lowered on [**2126-7-26**] [**1-19**] low MAP
   .
   # FEN: Advanced soft-solids
   - monitor for swallowing difficulties
   -Patient non-compliant with swallowing meds: will switch to liquid or
   IV forms.
   .
   # Access: PIVx1, and PICC R arm
   .
   # PPx: pneumoboots and sq heparin until plt drop, H2 blocker given on
   steroids
   .
   # Code: FULL
   .
   # Dispo:  ICU for now
   .
   # Comm:  Wife, [**Name (NI) 263**] [**Name (NI) **] [**Telephone/Fax (1) 4075**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-26**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-07-29 10:11:00 Physician Attending Progress Note
Chief Complaint: Altered mental status; Tumor lysis syndrome
   HPI:
   24 Hour Events:
   No significant events overnight.  Encephalopathy unchanged.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2126-7-26**] 07:45 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-7-28**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2126-7-28**] 10:04 PM
   Lorazepam (Ativan) - [**2126-7-29**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Pericardial rub
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-7-29**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35
C (95
   HR: 86 (68 - 92) bpm
   BP: 112/67(77) {91/53(62) - 112/77(81)} mmHg
   RR: 11 (7 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  7,027 mL
                                                                  2,748 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  6,967 mL
                                                                  2,748 mL
   Blood products:
   Total out:
                                                                  2,210 mL
                                                                  1,560 mL
   Urine:
                                                                  2,210 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   300 mL
   Balance:
                                                                  4,817 mL
                                                                  1,188 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   122 K/uL
   134 mg/dL
   1.3 mg/dL
   23 mEq/L
   3.9 mEq/L
   65 mg/dL
   110 mEq/L
   140 mEq/L
   26.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2126-7-26**]  05:10 PM
                             [**2126-7-26**]  11:43 PM
                             [**2126-7-27**]  05:23 AM
                             [**2126-7-27**]  11:30 AM
                             [**2126-7-27**]  06:37 PM
                             [**2126-7-28**]  12:01 AM
                             [**2126-7-28**]  05:13 AM
                             [**2126-7-28**]  12:30 PM
                             [**2126-7-28**]  10:35 PM
                             [**2126-7-29**]  03:28 AM
   WBC
   15.7
   16.4
   21.3
   18.1
   16.2
   12.3
   10.3
   9.7
   Hct
   32.1
   31.0
   31.5
   30.1
   29.2
   28.4
   28.4
   27.5
   26.3
   Plt
   198
   180
   198
   170
   160
   143
   127
   115
   123
   122
   Cr
   1.6
   1.7
   1.7
   1.6
   1.5
   1.4
   1.4
   1.3
   1.3
   Glucose
   113
   100
   102
   106
   108
   114
   124
   108
   134
   Other labs: PT / PTT / INR:15.3/33.4/1.3, ALT / AST:[**8-8**], Alk Phos / T
   Bili:46/0.8, Differential-Neuts:95.6 %, Lymph:1.9 %, Mono:2.0 %,
   Eos:0.3 %, Fibrinogen:236 mg/dL, Albumin:2.2 g/dL, LDH:200 IU/L,
   Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
   60 yom newly diagnosed lymphoma, now with encephalopathy
   ENCEPHALOPHATHY -- no improvement of encephalopathy with correction of
   metabolic disturbances.  Would perform LP to r/o CNS lymphoma (may
   require  intrathecal chemoRx)
   TUMOR LYSIS SYNDROME -- no clinical evidence at this time.  Monitor
   blood testing serially.
   LYMPHOMA -- newly diagnosed this admission.  Completed chemotherapy
   (CHOP).  Continue prednisone
   PERICARDIAL EFFUSION -- continues to drain (300 ml over past 24 hrs).
   Maintain drain, monitor output.
   Right Upper Extremity swelling -- concern for thrombosis related to
   PICC.  Check U/S to exclude DVT.
   ANEMIA -- anticipate further reduction with chemoRx.  Stable
   currently.  Monitor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-26**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 mins
   Patient is critically ill

2126-07-30 11:23:00 Physician Attending Progress Note
Chief Complaint: Encephalopathy
   HPI:
   24 Hour Events:
   Remains encephalopathic.
   Somewhat more aggitated today, variable improvement to ativan &
   haldol.  Receiving narcotics for pericardial drain discomfort.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-7-29**] 06:02 PM
   Heparin Sodium (Prophylaxis) - [**2126-7-29**] 08:35 PM
   Lorazepam (Ativan) - [**2126-7-30**] 01:54 AM
   Haloperidol (Haldol) - [**2126-7-30**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-7-30**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.7
C (96.3
   HR: 95 (76 - 100) bpm
   BP: 107/69(78) {89/55(64) - 130/82(89)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  6,870 mL
                                                                  2,942 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  6,630 mL
                                                                  2,942 mL
   Blood products:
   Total out:
                                                                  3,590 mL
                                                                  2,635 mL
   Urine:
                                                                  3,060 mL
                                                                  2,345 mL
   NG:
   Stool:
   Drains:
                                                                    530 mL
                                                                    290 mL
   Balance:
                                                                  3,280 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Palpable crepitus left chest wall; pericardial drain in place, left
   chest
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   121 K/uL
   114 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   50 mg/dL
   109 mEq/L
   137 mEq/L
   27.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2126-7-27**]  11:30 AM
                             [**2126-7-27**]  06:37 PM
                             [**2126-7-28**]  12:01 AM
                             [**2126-7-28**]  05:13 AM
                             [**2126-7-28**]  12:30 PM
                             [**2126-7-28**]  10:35 PM
                             [**2126-7-29**]  03:28 AM
                             [**2126-7-29**]  05:51 PM
                             [**2126-7-29**]  11:12 PM
                             [**2126-7-30**]  05:00 AM
   WBC
   18.1
   16.2
   12.3
   10.3
   9.7
   9.2
   10.3
   8.9
   Hct
   30.1
   29.2
   28.4
   28.4
   27.5
   26.3
   28.3
   27.3
   27.1
   Plt
   170
   160
   143
   127
   115
   123
   122
   127
   130
   121
   Cr
   1.6
   1.5
   1.4
   1.4
   1.3
   1.3
   1.1
   1.0
   1.0
   Glucose
   106
   108
   114
   124
   108
   134
   106
   132
   114
   Other labs: PT / PTT / INR:15.6/30.9/1.4, ALT / AST:[**9-11**], Alk Phos / T
   Bili:47/1.0, Differential-Neuts:95.6 %, Lymph:1.9 %, Mono:2.0 %,
   Eos:0.3 %, Fibrinogen:217 mg/dL, Albumin:2.2 g/dL, LDH:200 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   ENCEPHALOPATHY -- No significant improvement with correction of
   electrolyte disturbance.  Medications may be contributing.  Plan for LP
   to r/o CNS lymphoma --> may require intubation and sedation to allow
   LP.
   PAIN MANAGEMENT -- pericardial drain.  Optimize
   LYMPHOMA, non-Hodgkin's --  s/p chemo and XRT
   PERICARDIAL EFFUSION -- windowdrain in place, maintain tube.
   Persistent.
   TUMOR LYSIS SYNDROME -- resolved.  Continue allopurinol
   FLUIDS -- hypovolemic but tranding towards euvolumic;  maintain balance
   NUTRITIONAL SUPPORT -- encourage PO, suppliments.
   RUE SWELLING -- check vascular U/S to assess for DVT
   ANEMIA -- likely due to chemoRx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-26**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2126-07-31 09:20:00 Physician Attending Progress Note
Chief Complaint: Encephalopathy
   HPI:
   24 Hour Events:
   Remains encephalopathic, unchanged.
   LP performed yesterday, cytology specimen submitted.
   Right upper extremity u/s not performed due to pt. aggitation.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2126-7-30**] 11:55 AM
   Heparin Sodium (Prophylaxis) - [**2126-7-30**] 05:00 PM
   Famotidine (Pepcid) - [**2126-7-30**] 05:44 PM
   Morphine Sulfate - [**2126-7-31**] 01:46 AM
   Lorazepam (Ativan) - [**2126-7-31**] 02:46 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-7-31**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 103 (68 - 105) bpm
   BP: 115/65(80) {85/42(53) - 153/85(101)} mmHg
   RR: 20 (8 - 24) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  5,288 mL
                                                                    603 mL
   PO:
             TF:
   IVF:
                                                                  5,288 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                  4,335 mL
                                                                  1,200 mL
   Urine:
                                                                  4,045 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
                                                                    290 mL
                                                                    200 mL
   Balance:
                                                                    953 mL
                                                                   -598 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 87%
   ABG: ///21/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal, Aggitated, somewhat restless
   Labs / Radiology
   6.7 g/dL
   86 K/uL
   90 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   34 mg/dL
   115 mEq/L
   140 mEq/L
   18.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2126-7-28**]  05:13 AM
                             [**2126-7-28**]  12:30 PM
                             [**2126-7-28**]  10:35 PM
                             [**2126-7-29**]  03:28 AM
                             [**2126-7-29**]  05:51 PM
                             [**2126-7-29**]  11:12 PM
                             [**2126-7-30**]  05:00 AM
                             [**2126-7-30**]  02:43 PM
                             [**2126-7-31**]  12:29 AM
                             [**2126-7-31**]  06:09 AM
   WBC
   10.3
   9.7
   9.2
   10.3
   8.9
   8.6
   5.1
   Hct
   28.4
   27.5
   26.3
   28.3
   27.3
   27.1
   24.6
   18.9
   Plt
   127
   115
   123
   122
   127
   130
   121
   104
   86
   Cr
   1.4
   1.3
   1.3
   1.1
   1.0
   1.0
   1.0
   0.7
   0.6
   Glucose
   124
   108
   134
   106
   132
   114
   78
   121
   90
   Other labs: PT / PTT / INR:16.2/36.2/1.4, ALT / AST:[**10-8**], Alk Phos / T
   Bili:38/0.9, Differential-Neuts:95.6 %, Lymph:1.9 %, Mono:2.0 %,
   Eos:0.3 %, Fibrinogen:178 mg/dL, Albumin:1.9 g/dL, LDH:183 IU/L,
   Ca++:6.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Non-Hodgkin's lymphoma, persistent encephalopathy
   ENCEPHALOPATHY -- persistent, no significant improvement with
   improvement of electrolyte and metabolic derrangements.  Concern
   remains for CNS involvement of lymphoma.  CSF cytology pending.
   Neurotoxicity of chemoRx?  Consider head MRI.  Consider EEG to r/o
   seizures and post-ictal state.  Consider Haldol, but need to check EKG
   (Qt interval).
   FLUIDS -- euvolemic.  Follow I/O.  Maintain balance.
   LYMPHOMA, non-HODGKIN"S -- s/p chemoRx.  Plan for reimaging of torso to
   assess adenopathy.  Will likely need intubation to allow procedures.
   PERICARDIAL EFFUSION -- s/p window, drain in place --> continues to
   drain substantially.  Pain control for pericardial drain --> morphine.
   NUTRITIONAL SUPPORT -- PO, need to assess whether adequate intake.
   Assess adequacy for swallowing.  Would initiate NGT with TF.
   ANEMIA -- bone marrow suppression s/p chemoRx.  Transfuse to >21.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-26**] 07:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2126-08-01 12:41:00 Physician Attending Progress Note
Chief Complaint: Encephalopathy
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2126-7-31**] 11:12 AM
   rt upper arm
 BLOOD CULTURED - At [**2126-7-31**] 11:13 AM
    x2 from picc
 URINE CULTURE - At [**2126-7-31**] 11:13 AM
 EKG - At [**2126-7-31**] 02:40 PM
 PICC LINE - STOP [**2126-7-31**] 07:00 PM
   Remains encephalopathic, but less aggitated.  Answers some questions
   appropritely.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-8-1**] 08:00 AM
   Morphine Sulfate - [**2126-8-1**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-8-1**] 12:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 101 (78 - 110) bpm
   BP: 119/84(91) {96/59(69) - 156/90(101)} mmHg
   RR: 13 (8 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,108 mL
                                                                  1,411 mL
   PO:
             TF:
   IVF:
                                                                  2,108 mL
                                                                  1,351 mL
   Blood products:
   Total out:
                                                                  4,710 mL
                                                                  3,440 mL
   Urine:
                                                                  4,185 mL
                                                                  3,280 mL
   NG:
   Stool:
   Drains:
                                                                    525 mL
                                                                    160 mL
   Balance:
                                                                 -2,602 mL
                                                                 -2,029 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : left, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): Person, place ([**Location (un) 223**]), Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Normal, Much more
   calm, less agitated.  More alert.  Still confused.
   Labs / Radiology
   9.2 g/dL
   122 K/uL
   76 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.4 mEq/L
   33 mg/dL
   112 mEq/L
   142 mEq/L
   25.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2126-7-29**]  03:28 AM
                             [**2126-7-29**]  05:51 PM
                             [**2126-7-29**]  11:12 PM
                             [**2126-7-30**]  05:00 AM
                             [**2126-7-30**]  02:43 PM
                             [**2126-7-31**]  12:29 AM
                             [**2126-7-31**]  06:09 AM
                             [**2126-7-31**]  08:04 AM
                             [**2126-7-31**]  02:57 PM
                             [**2126-7-31**]  03:08 PM
   WBC
   9.7
   9.2
   10.3
   8.9
   8.6
   5.1
   8.3
   Hct
   26.3
   28.3
   27.3
   27.1
   24.6
   18.9
   26.2
   25.6
   Plt
   122
   127
   130
   121
   104
   86
   122
   Cr
   1.3
   1.1
   1.0
   1.0
   1.0
   0.7
   0.6
   0.8
   Glucose
   134
   106
   132
   114
   78
   121
   90
   76
   Other labs: PT / PTT / INR:15.2/31.2/1.3, ALT / AST:[**10-8**], Alk Phos / T
   Bili:38/0.9, Differential-Neuts:95.6 %, Lymph:1.9 %, Mono:2.0 %,
   Eos:0.3 %, Fibrinogen:178 mg/dL, Albumin:1.9 g/dL, LDH:208 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Encephalopathy
   ENCEPHALOPATHY -- improved.  Suspect toxic-metabolic, possibly related
   to chemoRx, metabolic derrangements and infection (PICC line)
   LYMPHOMA -- s/p chemotherapy.  For torso CT to assess adenopathy.
   PERICARDIAL EFFUSION -- s/p window.  Drain remains in place, still
   draining.
   ANEMIA -- related to chemoRx.  Acute drop in Hct yesterday represented
   lab error.  Monitor.
   NUTRITIONAL SUPPORT -- encourage PO as mental status improves.
   Continue TF (deficient).
   BACTEREMIA -- likely line-related infection (PICC).  PICC d/c'd.
   Empirical antibiotics pending culture results.
   RUE DVT -- likely related to PICC.  Line d/c'd, No anticoagulation in
   presence of bloody pericardial effusion.
   LLL INFILTRATE -- possible atalectasis or new infiltrate (aspiration
   risk).  Low threshold for empirical treatment for aspiration pneumonia.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2126-7-31**] 04:20 PM
   22 Gauge - [**2126-7-31**] 04:21 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2126-08-02 11:28:00 Physician Attending Progress Note
Chief Complaint: Encephalopathy
   HPI:
   24 Hour Events:
   Remains encephalopathic.
                               Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-8-1**] 01:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2126-8-1**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2126-8-2**] 08:57 AM
   Haloperidol (Haldol) - [**2126-8-2**] 09:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Pericardial drain
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-8-2**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 97 (79 - 120) bpm
   BP: 136/74(88) {95/61(69) - 162/84(98)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,114 mL
                                                                  1,897 mL
   PO:
             TF:
                                                                    140 mL
                                                                    388 mL
   IVF:
                                                                  3,914 mL
                                                                  1,418 mL
   Blood products:
   Total out:
                                                                  6,060 mL
                                                                  2,590 mL
   Urine:
                                                                  5,790 mL
                                                                  2,550 mL
   NG:
   Stool:
   Drains:
                                                                    270 mL
                                                                     40 mL
   Balance:
                                                                 -1,946 mL
                                                                   -693 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   103 K/uL
   100 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.7 mEq/L
   25 mg/dL
   110 mEq/L
   142 mEq/L
   26.5 %
   4.1 K/uL
        [image002.jpg]
                             [**2126-7-29**]  11:12 PM
                             [**2126-7-30**]  05:00 AM
                             [**2126-7-30**]  02:43 PM
                             [**2126-7-31**]  12:29 AM
                             [**2126-7-31**]  06:09 AM
                             [**2126-7-31**]  08:04 AM
                             [**2126-7-31**]  02:57 PM
                             [**2126-7-31**]  03:08 PM
                             [**2126-8-1**]  05:48 AM
                             [**2126-8-2**]  04:58 AM
   WBC
   10.3
   8.9
   8.6
   5.1
   8.3
   6.9
   4.1
   Hct
   27.3
   27.1
   24.6
   18.9
   26.2
   25.6
   29.1
   26.5
   Plt
   130
   121
   104
   86
   122
   118
   103
   Cr
   1.0
   1.0
   1.0
   0.7
   0.6
   0.8
   0.8
   Glucose
   132
   114
   78
   121
   90
   76
   100
   Other labs: PT / PTT / INR:14.5/47.1/1.3, ALT / AST:19/31, Alk Phos / T
   Bili:57/1.4, Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:0.5 %,
   Eos:1.5 %, Fibrinogen:250 mg/dL, Albumin:2.4 g/dL, LDH:224 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR ([**2126-8-2**])  interval improvement
   Assessment and Plan
   Encephalopathy.
   ENCEPHALOPATHY
 continue pharmacological control.  Would consider head
   MRI (may require intubation)
   LYMPHOMA -- s/p chemoRx.. For Torso CT to assess lymphadenopathy.
   PERICARDIAL EFFUSION
 Maintain drain.  Decreasing drainage.
   NUTRITIONAL SUPPORT
 PO and TF.
   DVT, RUE
 PICC line d/c
d.  No anticoagulation.
   BACTEREMIA
 line-related.  Hold PICC replacement.  Continue vanco.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-8-2**] 09:42 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-7-31**] 04:20 PM
   22 Gauge - [**2126-7-31**] 04:21 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to [**Hospital1 **]
   Total time spent: 45 minutes
   ------ Protected Section ------
   Procedure note:  Lumbar Puncture
   Lumbar Puncture performed under sterile conditions, operators include
   Resident and Critical Care Fellow, under my supervision.  Single needle
   stick, uncomplicated, removed 10 cc clear, freely flowing CSF.  At
   completion of CSF removal, oncology team instilled intrathecal
   methotrexate.  Tolerated well.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 619**], MD
   on:[**2126-8-2**] 18:25 ------

2126-08-03 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -repeat LP done for cytology eval -concern for CNS lympoma
   -heme/onc gave one dose of intrathecal methotrexate
   -strep viridans seen on blood culture -getting TTE to eval for
   endocarditis
   BM
   -pericardial drain removed by cardiac surgery
   -Nutrition recs: continue TF, regular soft diet with thin liquids
   Encephalopathy -restrained -gotten several doses of zyprexa, haldol,
   morphine for agitation
   -vanc d/c-ed ?
   -ceftriaxone for bacteremia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-8-2**] 11:31 AM
   Ceftriaxone - [**2126-8-2**] 08:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-8-2**] 08:57 AM
   Haloperidol (Haldol) - [**2126-8-2**] 09:52 AM
   Morphine Sulfate - [**2126-8-2**] 05:01 PM
   Famotidine (Pepcid) - [**2126-8-2**] 05:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-3**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 78 (73 - 122) bpm
   BP: 121/53(68) {93/37(48) - 150/91(103)} mmHg
   RR: 34 (9 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64 kg (admission): 66.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,842 mL
                                                                    768 mL
   PO:
             TF:
                                                                    780 mL
                                                                     40 mL
   IVF:
                                                                  2,792 mL
                                                                    728 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  1,270 mL
   Urine:
                                                                  4,910 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                 -1,108 mL
                                                                   -502 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   103 K/uL
   7.8 g/dL
   130 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   20 mg/dL
   110 mEq/L
   141 mEq/L
   22.0 %
   1.6 K/uL
        [image002.jpg]
                             [**2126-7-30**]  05:00 AM
                             [**2126-7-30**]  02:43 PM
                             [**2126-7-31**]  12:29 AM
                             [**2126-7-31**]  06:09 AM
                             [**2126-7-31**]  08:04 AM
                             [**2126-7-31**]  02:57 PM
                             [**2126-7-31**]  03:08 PM
                             [**2126-8-1**]  05:48 AM
                             [**2126-8-2**]  04:58 AM
                             [**2126-8-3**]  04:38 AM
   WBC
   8.9
   8.6
   5.1
   8.3
   6.9
   4.1
   1.6
   Hct
   27.1
   24.6
   18.9
   26.2
   25.6
   29.1
   26.5
   22.0
   Plt
   121
   104
   86
   122
   118
   103
   Cr
   1.0
   1.0
   0.7
   0.6
   0.8
   0.8
   0.7
   0.7
   Glucose
   114
   78
   121
   90
   76
   100
   100
   130
   Other labs: PT / PTT / INR:13.8/31.1/1.2, ALT / AST:19/31, Alk Phos / T
   Bili:57/1.4, Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:0.5 %,
   Eos:1.5 %, Fibrinogen:250 mg/dL, Albumin:2.5 g/dL, LDH:208 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Assesment: 60 y/o male p/w newly dx NHL with involvement of lung,
   pericardium, heart, adrenals, and kidneys set to undergo chemotherapy,
   course also c/b significant hypercalcemia
   .
   Plan:
   # Encephalopathy: Continues despite correction of Ca.  Head CT negative
   for bleed.  Other etiologies include CNS lymphoma or infectious cause.
   - continue soft restraints and ativan PRN for agitation
   -LP today for cell count and workup of infectious/malignant cause of
   encephalopathy.  Will premedicate with Versed.
   # High grade NHL
   - Patient completed first Tx of CHOP therapy on [**2126-7-26**]
   - chemo per BMT team
   - DIC/TLS labs q6h
   - allopurinol increased to 300mg daily
   - D/C IVF now
   - prednisone 100mg daily
   # RUE swelling: Right greater than left
   - RUE LENI to r/o DVT
   # Pericardial effusion
   - s/p pericardial window
   - monitor output, has a chest tube draining to water seal now
   - f/u cardiac [**Doctor First Name 458**] recs
   # Hypercalcemia: Corrected today
   - hold lasix for now
   - received pamidronate [**7-25**]
   - continue to monitor
   .
   # Tachycardia
   - lopressor 12.5mg [**Hospital1 **], dose lowered on [**2126-7-26**] [**1-19**] low MAP
   .
   # FEN: Advanced soft-solids
   - monitor for swallowing difficulties
   -Patient non-compliant with swallowing meds: will switch to liquid or
   IV forms.
   .
   # Access: PIVx1, and PICC R arm
   .
   # PPx: pneumoboots and sq heparin until plt drop, H2 blocker given on
   steroids
   .
   # Code: FULL
   .
   # Dispo:  ICU for now
   .
   # Comm:  Wife, [**Name (NI) 263**] [**Name (NI) **] [**Telephone/Fax (1) 4075**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-7-31**] 04:20 PM
   22 Gauge - [**2126-7-31**] 04:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2126-08-03 10:40:00 Physician Attending Progress Note
Chief Complaint: Encephalopathy
   HPI:
   24 Hour Events:
   Pericaridal drain d/c'd per Thoracic Surgery last PM.
   Repeat LP performed (for cytology), and intrathecal methotrexate
   instilled into CSF.
   Remains encephalopathic.
   Denies HA, dyspnea, chest pain.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2126-8-2**] 11:31 AM
   Ceftriaxone - [**2126-8-2**] 08:18 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2126-8-2**] 05:01 PM
   Famotidine (Pepcid) - [**2126-8-2**] 05:42 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2126-8-3**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 67 (67 - 122) bpm
   BP: 126/70(83) {93/37(48) - 135/91(103)} mmHg
   RR: 42 (9 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64 kg (admission): 66.4 kg
   Height: 70 Inch
             Total In:
                                                                  3,825 mL
                                                                  1,166 mL
   PO:
             TF:
                                                                    667 mL
                                                                    509 mL
   IVF:
                                                                  2,888 mL
                                                                    657 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  1,270 mL
   Urine:
                                                                  4,910 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                 -1,125 mL
                                                                   -104 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   74 K/uL
   130 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.5 mEq/L
   20 mg/dL
   110 mEq/L
   141 mEq/L
   22.0 %
   1.6 K/uL
        [image002.jpg]
                             [**2126-7-30**]  05:00 AM
                             [**2126-7-30**]  02:43 PM
                             [**2126-7-31**]  12:29 AM
                             [**2126-7-31**]  06:09 AM
                             [**2126-7-31**]  08:04 AM
                             [**2126-7-31**]  02:57 PM
                             [**2126-7-31**]  03:08 PM
                             [**2126-8-1**]  05:48 AM
                             [**2126-8-2**]  04:58 AM
                             [**2126-8-3**]  04:38 AM
   WBC
   8.9
   8.6
   5.1
   8.3
   6.9
   4.1
   1.6
   Hct
   27.1
   24.6
   18.9
   26.2
   25.6
   29.1
   26.5
   22.0
   Plt
   121
   104
   86
   122
   118
   103
   74
   Cr
   1.0
   1.0
   0.7
   0.6
   0.8
   0.8
   0.7
   0.7
   Glucose
   114
   78
   121
   90
   76
   100
   100
   130
   Other labs: PT / PTT / INR:13.8/31.1/1.2, ALT / AST:19/31, Alk Phos / T
   Bili:57/1.4, Differential-Neuts:92.8 %, Lymph:5.1 %, Mono:0.5 %,
   Eos:1.5 %, Fibrinogen:250 mg/dL, Albumin:2.5 g/dL, LDH:208 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Blood Culture +strept viridens
   Assessment and Plan
   Encephalopathy
   LYMPHOMA
 s/p chemoRx.  Further Rx as per Oncology service.
   ENCEPHALOPATHY
 attributed to CNS lymphoma (repeat cytology pending).
   S/p intrathecal methotrexate
   BACTEREMIA
 S. viridens.  Continue antimicrobials.  Evaluate for
   endocarditis.  Possible related to pneumonia or pericardial effusion.
   SEPSIS
 likely related to strept bacteremia.
   PERICARDIAL EFFUSION
 s/p window and drain.  Monitor clinical status
   s/p drain removal.
   NUTRITION
 TF at goal.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2126-8-3**] 08:09 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2126-7-31**] 04:20 PM
   22 Gauge - [**2126-7-31**] 04:21 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes